### PR TITLE
describe the torus as a CW complex and a product

### PR DESCRIPTION
**Pull request by kisonecat**
# Description

Example of the torus presented as a HIT and then as a product.

## Checklist

Before submitting a merge request, please check the items below:

- [ ] The imports are sorted (use `find -type f -name \*.agda -or -name \*.lagda.md | xargs support/sort-imports.hs`)

- [X] All code blocks have "agda" as their language. This is so that
tools like Tokei can report accurate line counts for proofs vs. text.

- [X] Proofs are explained to a satisfactory degree; This is subjective,
of course, but proofs should be comprehensible to a hypothetical human
whose knowledge is limited to a working understanding of non-cubical
Agda, and the stuff your pages link to.

The following items are encouraged, but optional:

- [ ] If you feel comfortable, add yourself to the Authors page! Add a
profile picture that's recognisably "you" under support/pfps; The
picture should be recognisable at 128x128px, should look good in a
squircle, and shouldn't be more than 200KiB.

- [ ] If your contribution makes mention of a negative statement, but
does not prove the negative (perhaps because it would distract from the
main point), consider adding it to the counterexamples folder.

- [ ] If a proof can be done in both "cubical style", and "book HoTT
style", and you have the energy to do both, consider doing both!
However, it is **completely file** to only do one! For instance, I
(Amélia) am much better at writing proofs "book-style".

### CODE REVIEW

File: src/1Lab/HIT/Torus.lagda.md [hunk 1]
```diff
@@ -0,0 +1,70 @@
...
+as distinct paths `base ≡ base`{.Agda}, and the 2-cell as a square
+with its top and bottom edges attached to one of the 1-cells, and its
+left and right edge attachd to the other.
+
+```agda
+data T² : Type where
+  base : T² 
+  loopA : base ≡ base
+  loopB : base ≡ base
+  square : PathP ( λ i → loopA i ≡ loopA i ) loopB loopB
```
Comment (plt-amy) [inline src/1Lab/HIT/Torus.lagda.md:31]: Can you use `Square` instead of `PathP`?

```
square : Square loopA loopB loopB loopA
```

File: src/1Lab/HIT/Torus.lagda.md [hunk 2]
```diff
@@ -0,0 +1,70 @@
...
+  S¹×S¹→T² (loop i , base) = loopA i 
+  S¹×S¹→T² (loop i , loop j) = square i j
+
+  iso-pf : isIso T²→S¹×S¹  
+  iso-pf .inv = S¹×S¹→T² 
+  iso-pf .rinv (base , base) = refl 
+  iso-pf .rinv (base , loop j) = refl 
+  iso-pf .rinv (loop i , base) = refl 
+  iso-pf .rinv (loop i , loop j) = refl 
+  iso-pf .linv base = refl
```
Comment (plt-amy) [inline src/1Lab/HIT/Torus.lagda.md:59]: Could use a blank line between the end of `.rinv` and the start of `.linv`

File: src/1Lab/HIT/Torus.lagda.md [hunk 3]
```diff
@@ -0,0 +1,70 @@
...
+```agda
+open isIso
+
+T²≃S¹×S¹ : T² ≡ ( S¹ × S¹ )
+T²≃S¹×S¹ = ua ( T²→S¹×S¹ , isIso→isEquiv iso-pf) where
+  T²→S¹×S¹ : T² → S¹ × S¹
+  T²→S¹×S¹ base = ( base , base ) 
+  T²→S¹×S¹ (loopA i) = ( loop i , base ) 
+  T²→S¹×S¹ (loopB j) = ( base , loop j ) 
+  T²→S¹×S¹ (square i j) = ( loop i , loop j )
```
Comment (plt-amy) [inline src/1Lab/HIT/Torus.lagda.md:45]: No need for the parens around the tuples here

File: src/1Lab/HIT/Torus.lagda.md [hunk 4]
```diff
@@ -0,0 +1,70 @@
...
+  square : PathP ( λ i → loopA i ≡ loopA i ) loopB loopB
+```
+
+The resulting HIT is equivalent to the product of two circles.
+
+```agda
+open isIso
+
+T²≃S¹×S¹ : T² ≡ ( S¹ × S¹ )
+T²≃S¹×S¹ = ua ( T²→S¹×S¹ , isIso→isEquiv iso-pf) where
```
Comment (plt-amy) [inline src/1Lab/HIT/Torus.lagda.md:40]: Extra space after `ua (`

**Review by plt-amy — APPROVED** [review]
This is great! Thanks so much :) A couple nitpicks, though:

File: src/1Lab/HIT/Torus.lagda.md (hunk 1 above)
Comment (kisonecat) [reply src/1Lab/HIT/Torus.lagda.md]: `Square` is definitely better than `PathP` here -- fixed in d161cd44ed18476b4bde667d0d29596ddbd3c0e9

File: src/1Lab/HIT/Torus.lagda.md (hunk 2 above)
Comment (kisonecat) [reply src/1Lab/HIT/Torus.lagda.md:60]: Good idea -- fixed in fe082216fd0ba038a08f0e15fb1a1b395f842a40

File: src/1Lab/HIT/Torus.lagda.md (hunk 3 above)
Comment (kisonecat) [reply src/1Lab/HIT/Torus.lagda.md]: That's true.  Fixed in fe082216fd0ba038a08f0e15fb1a1b395f842a40

File: src/1Lab/HIT/Torus.lagda.md (hunk 4 above)
Comment (kisonecat) [reply src/1Lab/HIT/Torus.lagda.md]: And fixed in fe082216fd0ba038a08f0e15fb1a1b395f842a40

**Comment by plt-amy** [comment]
Awesome, thanks! :)

**Comment by kisonecat** [comment]
I appreciate the feedback and your attention to detail.
